US07772226B2
(b) 2-Chloro-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one
8.4 ml of lithium hexamethyldisilazide (1.0 M tetrahydrofuran solution) was added dropwise over one hour to a 300-ml tetrahydrofuran solution containing 1.68 g of t-butyl 5-methyl-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-carboxylate and 4.15 g of hexachloroethane under a nitrogen atmosphere at 0° C. The resulting mixture was stirred for 30 minutes. 2N ammonia water was added to the solution, and the mixture was stirred for three hours. Then, the reaction solution was concentrated to 50 ml, and washed with 20 ml of t-butyl methyl ether. The solution was acidified with concentrated hydrochloric acid. The resulting precipitate was collected by filtration, and washed successively with 10 ml of water and 10 ml of t-butyl methyl ether. Thus, 1.03 g of the title compound was obtained.

reactant | lithium hexamethyldisilazide | 1.0 M, 8.4 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | t-butyl 5-methyl-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-carboxylate | 1.68 g | CN1N=CC2=C(C1=O)N=CN2C(=O)OC(C)(C)C | C11H14N4O3
reactant | hexachloroethane | 4.15 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | ammonia water | 2N | O.N
solvent | tetrahydrofuran | 300-ml | O1CCCC1 | C4H8O
product | 2-Chloro-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 1.03 g | ClC1=NC2=C(C=NN(C2=O)C)N1 | C6H5ClN4O
